US04451471
4.92 g of ammonium thiocarbamate are suspended in 70 ml of 96% strength ethanol. The suspension is cooled to 5° and, while stirring, 15 g of 2-bromo-1,2-bis-(p-methoxyphenyl)-ethanone are added thereto in portions in the course of 10 minutes, the internal temperature being maintained at approximately 10° by cooling. The mixture is then stirred for 1 hour at 10°, a further 2.4 g of ammonium dithiocarbamate are added and stirring is carried out again for 3 hours at room temperature. The mixture is then poured into 500 ml of ice-water, the crude product is filtered off with suction and then washed with ice-water. For purification, the crude product is suspended in 50 ml of ethanol and heated under reflux, first of all dissolution occurring and, after 90 minutes, reprecipitation. The whole is allowed to cool, filtered with suction and the residue is then washed with cold ethanol. 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione having a melting point of 226°-230° is obtained.

reactant | ammonium thiocarbamate | 4.92 g | C(N)([O-])=S.[NH4+]
reactant | 2-bromo-1,2-bis-(p-methoxyphenyl)-ethanone | 15 g | BrC(C(=O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C16H15BrO3
reactant | ammonium dithiocarbamate | 2.4 g | C(N)([S-])=S.[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione | COC1=CC=C(C=C1)C1=NC(SC1C1=CC=C(C=C1)OC)=S | C17H15NO2S2
